US05093370
To 50 ml of triethylamine were added 5.52 g of ethyl p-iodobenzoate, 1.54 g of 3-butyn-1-ol, 41 mg of cuprous iodide and 77 mg of bis(triphenylphosphine) palladium chloride, and the mixture was stirred for 2.5 hours under nitrogen flow. After adding 50 ml of ethyl acetate, the mixture was filtered to remove the precipitate, washed three times with 30 ml of water, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain 4.4 g of ethyl p-(4-hydroxy-1-butynyl)benzoate as a colorless oil.

reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl p-iodobenzoate | 5.52 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | 3-butyn-1-ol | 1.54 g | C(CC#C)O | C4H6O
catalyst | bis(triphenylphosphine) palladium chloride | 77 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl p-(4-hydroxy-1-butynyl)benzoate | 4.4 g | OCCC#CC1=CC=C(C(=O)OCC)C=C1 | C13H14O3
